M3 (VOUT2 VOUT2 VDD VDD) pmos4
M2 (VOUT1 VOUT2 VDD VDD) pmos4
M1 (VOUT2 VOUT1 VDD VDD) pmos4
M0 (VOUT1 VOUT1 VDD VDD) pmos4
? Missing component
M6 (net20 IB1 VSS VSS) nmos4
M5 (VOUT2 VIN2 net20 VSS) nmos4
M4 (VOUT1 VIN1 net20 VSS) nmos4
